US07846960B2
To a solution of (6-hydroxy-benzo[b]thiophen-3-yl)-acetic acid ethyl ester (3.31 g, 14.0 mmol) in dichloromethane (50 mL) at −78° C. are added triethylamine (3.90 mL, 28.0 mmol) and trifluoromethanesulfonic anhydride (2.60 mL, 15.4 mmol). The mixture is stirred and allowed to warm to room temperature for 30 minutes. The reaction is quenched with MeOH (5.0 mL) and concentrated under reduced pressure. The residue is purified by silica gel chromatography with 20% EtOAc/Hexanes to provide (6-trifluoromethanesulfonyloxy-benzo[b]thiophen-3-yl)-acetic acid ethyl ester (5.05 g, 98%). ES/MS m/e 366.8 (M−1).

reactant | (6-hydroxy-benzo[b]thiophen-3-yl)-acetic acid ethyl ester | 14.0 mmol, 3.31 g | C(C)OC(CC=1C2=C(SC1)C=C(C=C2)O)=O | C12H12O3S
reactant | triethylamine | 28.0 mmol, 3.90 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 15.4 mmol, 2.60 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (6-trifluoromethanesulfonyloxy-benzo[b]thiophen-3-yl)-acetic acid ethyl ester | 5.05 g, 98% | C(C)OC(CC=1C2=C(SC1)C=C(C=C2)OS(=O)(=O)C(F)(F)F)=O | C13H11F3O5S2
